US04908455
Reaction was carried out according to Example 1 using (S)-2-amino-1,1-diphenylpropan-1-ol hydrochloride, (S)-2-amino-1,1-diphenyl-3-methylbutan-1-ol hydrochloride, (R)-2-amino-1,1-diphenyl-3-phenylpropan-1-ol acetate and (S)-2-amino-1,1-di-(2'-methoxyphenyl)-4-methylpentan-1-ol acetate in place of (S)-2-amino-1,1-diphenyl-4-methylpentan-1-ol hydrochloride, to obtain the (+)-isomer and (-)-isomer of (E)-1-(4-chlorophenyl)-2-(1,2,4-triazol-1-yl)-4,4- dimethyl-1-penten-3-ol. The results obtained were summarized in Table 1.

reactant | (S)-2-amino-1,1-diphenylpropan-1-ol hydrochloride | Cl.N[C@H](C(O)(C1=CC=CC=C1)C1=CC=CC=C1)C
reactant | (S)-2-amino-1,1-diphenyl-3-methylbutan-1-ol hydrochloride | Cl.N[C@H](C(O)(C1=CC=CC=C1)C1=CC=CC=C1)C(C)C
reactant | (R)-2-amino-1,1-diphenyl-3-phenylpropan-1-ol acetate | C(C)(=O)OC([C@@H](CC1=CC=CC=C1)N)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23NO2
reactant | (S)-2-amino-1,1-di-(2'-methoxyphenyl)-4-methylpentan-1-ol acetate | C(C)(=O)OC([C@H](CC(C)C)N)(C1=C(C=CC=C1)OC)C1=C(C=CC=C1)OC | C22H29NO4
product | (E)-1-(4-chlorophenyl)-2-(1,2,4-triazol-1-yl)-4,4- dimethyl-1-penten-3-ol | ClC1=CC=C(C=C1)\C=C(/C(C(C)(C)C)O)\N1N=CN=C1 | C15H18ClN3O
